US05173105
N,N'-dimethyl-N,N'-di (2-(2-chloro-4-methanesulfonylbenzoyl)-3-oxo-cyclohexenvl)ethylene diamine
3-Chloro-2-(2-chloro-4-methanesulfonylbenzoyl) -cyclohex-2-enone (1.8 g., 5 millimole) was dissolved in 50 ml of methylene chloride and stirred at room temperature. A mixture of N,N'-dimethylethylene diamine (0.22 g., 2.5 mmol mole) and triethylamine (0.5 g., 5 mml) in 10 ml of methylene chloride was added dropwise over 20 minutes and the resulting solution was stirred for 2 hours. The reaction mixture was poured into lN HCl and extracted with additional methylene chloride. The organic layer was washed with saturated NaHCO3 solution, dried with MgSO4 and the solvent evaporated to yield a yellow foam: 1.6 g., 86%. The structure is consistent with nuclear magnetic resonance, infrared and mass spectral data.

reactant | 3-Chloro-2-(2-chloro-4-methanesulfonylbenzoyl) -cyclohex-2-enone | 5 millimole, 1.8 g | ClC1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C14H12Cl2O4S
reactant | N,N'-dimethylethylene diamine | 2.5 mmol, 0.22 g | CNCCNC | C4H12N2
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N,N'-dimethyl-N,N'-di (2-(2-chloro-4-methanesulfonylbenzoyl)-3-oxo-cyclohexenvl)ethylene diamine | CN(CCN(C1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O)C)C1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C32H34Cl2N2O8S2
